US09212170B2
(2) 2-Hydrazinyl-5-{(E)-2-[4-(trifluoromethyl)phenyl]ethenyl}pyridine
2,2,2-Trifluoro-N-(5-{(E)-2-[4-(trifluoromethyl)phenyl]ethenyl}pyridin-2-yl)acetohydrazide (0.17 g) was dissolved in ethanol (5 mL). To the solution, concentrated hydrochloric acid (1 mL) was added at room temperature, and the mixture was heated to reflux for 2 hours. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction solution, followed by extraction with dichloromethane. The organic layer was dried over sodium sulfate. The solvent was distilled off under reduced pressure, and the obtained residue was purified by NH-silica gel column chromatography (Moritex Corporation, elution solvent: ethyl acetate) to obtain the title compound (0.079 g) (yield: 63%).

reactant | 2,2,2-Trifluoro-N-(5-{(E)-2-[4-(trifluoromethyl)phenyl]ethenyl}pyridin-2-yl)acetohydrazide | 0.17 g | FC(C(=O)N(N)C1=NC=C(C=C1)\C=C\C1=CC=C(C=C1)C(F)(F)F)(F)F | C16H11F6N3O
reactant | hydrochloric acid | 1 mL | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-Hydrazinyl-5-{(E)-2-[4-(trifluoromethyl)phenyl]ethenyl}pyridine | 0.079 g, yield: 63% | N(N)C1=NC=C(C=C1)\C=C\C1=CC=C(C=C1)C(F)(F)F | C14H12F3N3
